Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Codeine / Benadryl / Penicillins / Percocet
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
PEG placement

 
History of Present Illness:
___ year old gentleman found down by his parents at 6am this 
morning after they had initially heard a "thump" at 3am. Upon 
being found EMS was called and he was transported to ___ 
___ for evalaution. There a head CT was performed 
which showed SAH and SDH. Following the CT he was intubated for 
airway protection and trasnferred to ___ for further care. 
Upon arrival to the ED he was heavily sedated and once sedation 
was off he was examined. He underwent CT of his torso, and X-ray 
of his right knee per trauma service and he had a CTA of the 
head to rule out vascular injury at our request. He is currently 
intubated so exam and review of systems are limited.
 
Past Medical History:
HTN, NIDDM, ETOH abuse, cardiac ablation for unknown etiology
 
Social History:
___
Family History:
CAD
 
Physical Exam:
___ and ___       Fisher: 3     GCS 9T E:2   V:1T Motor:6
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRL         EOMs unable to assess
Neck: Hard Cervical Collar in place, Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: opens eyes to noxious, follows commands with
uppers
Orientation: unable to assess
Language: nonverbal and intubated

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 2mmto
1mm bilaterally. 
III-XII: unable to accurately assess at time of consult given
clinical status

Motor: Spontaneously moves all extremities, follows commands 
with
bilateral uppers, withdraws lowers to stimuli as well

Sensation: unable to fully assess secondary to clinical stauts

Toes upgoing

Coordination: unable to assess secodnary to sedation and
intubation
 
Pertinent Results:
NCHCT ___: Right vertex contusion with frontal SAH. Subdural 
blood
tracks along the tentorial leafs and the falx. Right occiput
subgaleal hematoma. Minimal change since the prior imported scan
(3 hours). 
------------------  
CT Chest/Abdomen/Pelvis ___ 
1.Bilateral subsegmental atelectasis as described above. 
2.Segmental consolidation in the superior segment of the right 
lower lobe is concerning for aspiration or pneumonia in the 
appropriate clinical setting. 
3. No acute traumatic pathology. 
CTA ___: No dissection, aneurysm, or AVM detected. No focus 
of active
extravasation.
--------------------
Repeat NCHCT ___: stable appearance  
------------------
CT Head ___. Stable to slightly decreased diffuse subarachnoid hemorrhage. 

2. Stable parenchymal contusions. 
3. Stable parafalcine subdural hemorrhage. 
4. Prominent bifrontal extra-axial spaces. 
5. No evidence for ventriculomegaly or shift of normally midline 
structures.
-----------------
Lumbar xrays ___: No radiographic evidence of acute lumbar 
spine fracture 
CT Head ___. Stable appearance of right frontal and temporal hemorrhagic 
contusions. 
  
2. Stable parafalcine SDH and left frontal SAH. 
  
3. Mild reduction in the subarachnoid hemorrhage along the 
quadrigeminal and ambient cisterns. 
-----------------
EEG ___:
This is an abnormal routine EEG, due to the presence of a 
significant portion of the record spent in sleep and mild 
slowing of the 
posterior dominant rhythm. This pattern is consistent with an 
early 
diffuse encephalopathy, commonly seen with medication effect, 
metabolic 
disturbance, or infection. However, there were no focal 
abnormalities 
or epileptiform features seen. 

___ ___
No DVT in either lower extremity.
--------------
MRI brain ___:
1. Diffuse axonal injury within the splenium of the corpus 
callosum and 
posterior mid brain, with mild swelling and effacement of the 
left aspect of the quadrageminal cistern. 
2. Right vertex, pericallosal, and temporal contusion injuries, 
as seen on 
the prior CT examination 
CXR ___:
Feeding tube passes to the mid stomach and out of view. Lung 
volumes are low,but there is no pneumonia or pulmonary edema. 
Mild cardiomegaly is 
exaggerated by low lung volumes but probably real and unchanged 
over the past ten days. 
CXR ___:
Low inspiratory volumes with patchy retrocardiac and left 
suprahilar opacity, ?due to atelectasis. 
------------
 
COMPLETE BLOOD COUNT WBC  RBC  Hgb    Hct  MCV MCH   MCHC RDW  
Plt Ct 
___ 13:32    16.8* 4.07* 13.4* 38.9* 96 33.1* 34.6 12.8 
389 

                Glucose UreaN Creat Na K    Cl HCO3 AnGap 
___ 13:32    146 11    0.6  134 4.2  98  29 11 

                   ALT  AST  LD(LDH) AlkPhos TotBili
___ 13:33    64* 84* 282*      167*   0.8 

___ TSH 3.5
 
Brief Hospital Course:
Pt was admitted to the ICU and monitored closely with q1h neuro 
checks.  He developed hypertension and tachycardia and was 
started on delerium tremens prophylaxis.  He developed fever and 
had thick secretions and was started on antibiotics for presumed 
pneumonia possibly aspiration related.  He was in a hard collar 
which was removed by the ICU team for a negative cervical CT 
done at ___. Serial imaging of the head was 
ontained on ___ and ___ which showed improvement of his SAH and 
stable SDH. He was extubated in the ICU and placed on face mask 
with good results. On ___ his ability to follow commands was 
greatly improved with the exception of his LLE. The leg would 
withdraw briskly to minimal noxious but no commands. He had no 
palpable step-offs or point tenderness. X-ray of the lumbar and 
sacral spine were obtained which showed no acute fracture. His 
exam remained stable and he was transferred to the neuro 
stepdown unit. An MRI of the cervical and lumbar spine was 
attempted but patient was unable to tolerate the study without 
significant sedation that would have required intubation. 
Medication was continued for ETOH withdrawl/agitation. His WBC 
count increased on ___ to 16.8 and a urinalysis was obtained 
which was negative. Doboff was placed ___ and tube feeding 
started and meds changed to via NGT.  His sodium which was 
slowly decreasing was followed closely and maintained within 
normal levels through tube feedings and free water bolus 
adjustments. Psychiatry consultation was requested ___ for 
assitance with withdrawal/agitation medication - they 
recommended haldol and to add pain medication.  The also 
suggested EEG which was obtained and results showed early 
diffuse encephalopathy and no epileptiform activity. He was also 
intubated in order to obtain MRI of the brain which showed 
diffuse axonal injury; MRI of spine was considered but not done 
as pt was moving all extremities with no motor deficits and the 
information to be gained from doing this study would not change 
current management. Speech and swallow continued to follow but 
he was unable to take PO so PEG was placed in the OR on ___. 
Tube feedings were started and increased to goal.  All meds were 
changed to PO and his home meds were started.  He finished up 
his course of antibiotics for aspiration pneumonia and his 
prophylactic seizure medication and these were both 
discontinued.  He had high WBC that was slowly decreasing and 
all fever work up including cultures were negative. WBC ___ was 
16.1. Foley was removed but had to be replaced due to retention. 
Blood glucoses were mildly elevated throughout his 
hospitalization but better controlled once on tube feedings and 
resumed usual home meds.  Prolonged QT was found on EKG and 
haldol was discontinued.
 
Medications on Admission:
Metformin, Glyburide, Atenolol,Fluticasone, MVI, Norvasc, Zocor
 
Discharge Medications:
1. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. ipratropium bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for SOB/wheezing.  
3. heparin (porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
4. clonidine 0.2 mg/24 hr Patch Weekly Sig: One (1) Patch Weekly 
Transdermal QSAT (every ___.  
5. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
6. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for no BM>24hr.  
7. nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. clobetasol 0.05 % Ointment Sig: One (1) Appl Topical BID (2 
times a day).  
10. nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day) as needed for oral candidiasis.  
11. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
12. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
14. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

16. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
17. simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
18. metformin 500 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
19. glyburide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
20. heparin, porcine (PF) 10 unit/mL Syringe Sig: One (1) ML 
Intravenous PRN (as needed) as needed for line flush.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Traumatic brain injury/ diffuse axonal injury
cerebral edema
aspiration pneumonia
acute hyponatremia
alcohol withdrawal
dysphagia
diabetes
delerium
urinary retention
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
•Take your medicine as prescribed.
 
Followup Instructions:
___